US06921767B2
To a solution of (2E)-3-(3-methoxyphenyl)acrylic acid (25 g) in ethanol (150 mL) was added conc HCl (25 mL) and the solution refluxed for 3 hours. The solvent was evaporated and residue dissolved in ethyl acetate. The organic phase was washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated to give ethyl (2E)-3-(3-methoxyphenyl)acrylate as yellow oil in quantitative yield. To a solution of isopropyl(triphenyl)phosphonium iodide (75 g, 0.173 mol) in dry THF (200 mL) at −78° C. was added butyl lithium (1.6M in Hexanes, 119 mL, 0.191 mol). The reaction was stirred for 1 hour at room temperature and then cooled to −78° C. To the solution was added ethyl (2E)-3-(3-methoxyphenyl)acrylate (2.91 g, 0.014 mol) in THF (200 mL). The solution was stirred at room temperature for few hours and then refluxed overnight. The reaction mixture was poured into 5% aqueous citric acid and extracted with ethyl acetate. The organic portion washed with saturated aqueous sodium bicarbonate, brine, dried over Na2SO4 and concentrated. The concentrated residue was chromatographed on silica gel using 5% ethyl acetate/hexane to afford viscous yellow oil. To the solution ethyl 3-(3-methoxyphenyl)-2,2-dimethylcyclopropanecarboxylate (15 g) in ethanol (60 mL) and water (20 mL) was added LiOH (12.74 g). The reaction mixture was heated for 3 hours at 50° C. and concentrated to remove ethanol. The residue was dissolved in ethyl acetate, washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated to give 3-(3-methoxyphenyl)-2,2-dimethylcycloprop-anecarboxylic acid as yellow oil. 1H NMR (CDCl3) δ 7.15 (m, 1H), 6.74 (m, 3H), 3.8 (s, 3H), 2.67 (m, 1H), 2.05 (m, 1H), 1.38 (s, 3H), 1.06 (s, 3H). M−=219. Step 2. Synthesis of [3-(3-methoxyphenyl)-2,2-dimethylcyclopropyl]methanol.

reactant | (2E)-3-(3-methoxyphenyl)acrylic acid | 25 g | COC=1C=C(C=CC1)/C=C/C(=O)O | C10H10O3
reactant | HCl | 25 mL | Cl | ClH
reactant | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl (2E)-3-(3-methoxyphenyl)acrylate | quantitative yield | COC=1C=C(C=CC1)/C=C/C(=O)OCC | C12H14O3
